US05958918
A. 4-(Pyridin-3-yl)bromobenzene
3-Bromopyridine (6 g, 38 mmol) is treated as described in EXAMPLE 53, Part A with n-butyl lithium (28.5 mL of a 1.6 M solution in THF, 45.6 mmol) and iodobromobenzene (8.96 g, 31.7 mmol). The crude product is purified by chromatography (30% EtOAc/hexanes) to obtain the title compound (3.5 g, 14.9 mmol).

reactant | 3-Bromopyridine | 38 mmol, 6 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyl lithium | C(CCC)[Li]
reactant | iodobromobenzene | 31.7 mmol, 8.96 g | IC1=C(C=CC=C1)Br | C6H4BrI
solvent | THF | C1CCOC1 | C4H8O
product | 4-(Pyridin-3-yl)bromobenzene | 14.9 mmol, 3.5 g | N1=CC(=CC=C1)C1=CC=C(C=C1)Br | C11H8BrN
